US04624966
3.5 g of 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22,26-octacosahexaenol was dissolved in 20 ml of pyridine, and 10 ml of acetic anhydride was added. After 20 g of iced water was added, the solution was stirred for one hour and extraction was then carried out using 100 ml of n-hexane. The extract was washed with 1N hydrochloric acid and then with water, dried and concentrated. The concentrate was refined by silica gel column chromatography, providing 3 g of the captioned 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22,26-octacosahexaenyl acetate in a colorless oily form.

reactant | 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22,26-octacosahexaenol | 3.5 g | CC(CCO)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C | C35H60O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 20 g | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22,26-octacosahexaenyl acetate | 3 g | C(C)(=O)OCCC(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C | C37H62O2
